Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath and cough 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a pleasant ___ f with PMH dCHF (EF 50%), CAD s/p stent 
LAD (___), bronchiectasis?, HTN presenting with shortness of 
breath and cough for unclear duration. She noted to ED 
physicians that she frequently gets similar exacerbations during 
the winter. She does note some substernal chest pain. She denied 
any fever or lower extremity edema.  
On arrival to ED, she was found to be desaturating to low ___ on 
RA with SBP200s for which she triggered. Vitals on arrival to 
ED:  
___.8 ___ 22 91% RA  
Patient was thought to be volume overloaded based on CXR and was 
started on nitro gtt and cpap. Patient was trialed briefly off 
cpap for nausea but patient quickly desasturated and required 
zofran 4mg IV, lorazepam 0.5mg IV, and reglan 10mg IV and was 
put back on cpap. Patient's symptoms improved with IV nitro drip 
and CPAP with settings 40% CPAP at 5mmHg saturating 100%. She 
was given 20mg IV lasix prior to transfer and urinated 500cc by 
the time she arrived on floor.  
Pertinent labs include wbc 7.7, Creat 0.8, Trop<0.01, proBNP 
691, lactate 1.0.  
CXR showed mild pulmonary edema with possible right hilar 
consolidation (my read)  
On transfer, vitals were:  
Today 02:47 0 98 99 150/62 23 99% BIPAP  
On arrival, patient was somnoelnt but arousble because she was 
given 0.5mg ativan IV en route for agitation during which time 
she pulled off cpap and was placed on 5L nasal cannula. Unable 
to gather further history from patient because she was so 
somnolent.  
 
Past Medical History:
CAD with stent to LAD (B&W ___  
dCHF: hx flash pulm edema in the setting of malignant 
hypertension  
HTN  
Left bundle branch block on prior EKG.  
Hyperlipidemia  
Allergic rhinitis  
Asthma, question cold-induced asthma  
Intraductal hyperplasia status post left mastectomy in ___, no 
radiation or chemotherapy
 
Social History:
___
Family History:
No family history of premature coronary disease or sudden death. 
 

 
Physical Exam:
On Admission:
VS: T98.4 HR108 BP188/75-->130/57 RR26 94% 5L NC  
Gen: Pleasant, calm, sleepy and in no respiratory distress  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP midneck.  
CV: tachycardic, no m/r/g.  
LUNGS: transmitted upper airway sounds anteriorly. crackles 
bilaterally extending ___ up lungs  
ABD: NABS. Soft, NT, ND. No HSM.  
EXT: WWP, NO CCE. Full distal pulses bilaterally. SKIN: No 
rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation 
throughout. ___ strength throughout. ___ reflexes, equal ___. 
Normal coordination. Gait assessment deferred  

=========================
On Discharge:
VS: AFebrile, 98.3, 136-177/72-79, HR ___ sinus, RR 18, 94-95% 
RA  
Weight: 57.5k  
I/O's: 12A: 180/384 24H: ___  
Neuro: Alert and oriented x 3, denies pain.  
CV: RRR, Normal S1, S2. No rubs gallops.  
RESP: Lungs CTA throughout.  
GI: Abd soft, NT, ND. + BS  
GU: Voiding CYU  
VASC: Warm and well perfused with + BS.
 
Pertinent Results:
Admission labs:
___ 12:40AM BLOOD WBC-7.7# RBC-4.70 Hgb-14.1 Hct-42.3 
MCV-90 MCH-30.1 MCHC-33.4 RDW-13.5 Plt ___
___ 12:40AM BLOOD Neuts-65.7 ___ Monos-4.2 Eos-3.8 
Baso-0.4
___ 12:40AM BLOOD ___ PTT-31.6 ___
___ 12:40AM BLOOD Plt ___
___ 12:40AM BLOOD Glucose-138* UreaN-18 Creat-0.8 Na-144 
K-4.1 Cl-104 HCO3-26 AnGap-18
___ 12:40AM BLOOD proBNP-691*
___ 12:40AM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.8
___ 12:55AM BLOOD Lactate-1.0

Studies:
___ Echo: 
Conclusions  
The left atrial volume index is moderately increased. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal (abnormal septal motion). 
Overall left ventricular systolic function is low normal (LVEF 
55%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and low normal global biventricular systolic function. 
Mild mitral regurgitation. Increased PCWP. 
 
___ Chest xray:
IMPRESSION:  
Increased bibasilar interstitial opacities without evidence of 
pulmonary 
vascular congestion are more concerning for infection rather 
than edema. 

Discharge labs:
___ 06:45AM BLOOD WBC-6.8 RBC-4.02* Hgb-12.1 Hct-35.1* 
MCV-87 MCH-30.1 MCHC-34.4 RDW-13.3 Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-101* UreaN-15 Creat-0.8 Na-140 
K-3.7 Cl-101 HCO3-29 AnGap-14
___ 06:45AM BLOOD Mg-2.2
___ 06:20AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.___ with PMHx hypertension and diastolic CHF presented with 
shortness of breath and hypertensive emergency. Patient had been 
feeling well and coughing several days and missed hypertensive 
medications. She had presenting BP's 210's systolic. Was placed 
on nitro gtt and diuresed with good effect. Nitro gtt weaned on 
arrival to CCU. Started on Levofloxacin for CAP. Stable for 
home.

#) Respiratory distress: Unclear trigger but was possibly due to 
reactive airway disease or pneumonia. Patient did have severe 
cough with clear sputum production, and so levoquin PO was 
started for presumed CAP. Additionally, patient was diuresed 
___ with some improvement in breathing.

#) Pneumonia: on levo PO. Had severe cough with clear sputum 
production. Lung sounds became clear and off O2. No fevers. ___ 
___.  
- cont PO levo for ___nd date ___.   

#) Acute on chronic diastolic HF: not thought to be a 
contributing factor to SOB this admission. Diuresed and then 
needed IVF yesterday. On day of discharge looks completely 
euvolemic. Not on standing diuretics here.  

#) Hypertensive emergency: Patient has had recurrent admissions 
for hypertensive urgency with diastolic heart failure requiring 
blood pressure control and diuresis with good effect. Patient 
did report some substernal chest pain but trops are negative and 
EKG is without any significant ST-T wave changes to suggest 
ischemic heart disease causing hypertensive urgency.  Patient 
reports consistently taking her home medications which puts 
rebound of short-acting antihypertensive agents less likely. 
This resolved

#) Coronary artery disease. Patient did report substernal chest 
pain but unclear if this is cardiac in origin given neg trops 
and EKG with no ST-T wave changes, and this resolved.  

#) CONTACT: ___ HUSBAND; Dr. ___ ___  
  
TRANSITIONAL:
cont PO levo for ___nd date ___.
dry weight: 57.5kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 25 mg PO BID 
2. Furosemide 20 mg PO 1X/WEEK (FR) 
3. Losartan Potassium 25 mg PO BID 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Simvastatin 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Furosemide 20 mg PO 1X/WEEK (FR) 
4. Losartan Potassium 25 mg PO BID 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
6. Simvastatin 20 mg PO QPM 
7. Fluticasone Propionate 110mcg 1 PUFF IH DAILY 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 1 puff inh daily 
Disp #*1 Inhaler Refills:*0
8. Albuterol Inhaler 2 PUFF IH Q4H cough 
RX *albuterol sulfate 90 mcg 2 puffs INH every 4 hours Disp #*1 
Inhaler Refills:*0
9. Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 capsule(s) by mouth daily Disp 
#*30 Capsule Refills:*3
10. Levofloxacin 750 mg PO Q24H Duration: 2 Days 
last day of antibiotics is ___ 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*2 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Hypertensive Emergency
Diastolic Heart Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You came to the hospital with difficulty breathing and a very 
high blood pressure. You had fluid in your lungs and signs of 
pneumonia. We controlled your blood pressure and removed the 
fluid with a water pill (lasix). We have also started you on an 
antibiotic for pneumonia and you improved.

Please see medication changes below.
 
Followup Instructions:
___